US09388138B2
(E)-2-(2-(Quinolin-2-yl)vinyl)phenyl Acetate
Quinaldine (2.84 mL, 3.00 g, 21.0 mmol, 1.0 eq.) and 2-hydroxybenzaldehyde (2.23 mL, 2.56 g, 21.0 mmol, 1.0 eq.) were dissolved in acetic anhydride (25 mL). The resulting mixture was heated at 130° C. for 16 h. The mixture was allowed to cool down to r.t. and was poured onto water (150 mL) and was stirred vigorously. The mixture was extracted with ethyl acetate (3×75 mL). The combined organic extracts were washed with saturated aqueous ammonium acetate (2×75 mL) and brine (75 mL), dried over sodium sulfate and concentrated under reduced pressure which gave the crude product as a red oil. The crude product was purified by column chromatography (SiO2, 1:4 ethyl acetate-cyclohexane) which yielded the product (5.88 g, 97% yield) as a clear yellow oil which crystallised upon standing.

reactant | Quinaldine | 21.0 mmol, 2.84 mL, 3.00 g, 1.0 eq. | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | 2-hydroxybenzaldehyde | 21.0 mmol, 2.23 mL, 2.56 g, 1.0 eq. | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-2-(2-(Quinolin-2-yl)vinyl)phenyl Acetate | 5.88 g, 97% yield | C(C)(=O)OC1=C(C=CC=C1)\C=C\C1=NC2=CC=CC=C2C=C1 | C19H15NO2
